US07642264B2
2-Cyclopropyl-6-(3-pyridin-3-yl-phenyl)-4-(4-trifluoromethyl-phenyl)-pyridine
The title compound was prepared from 2-(3-bromo-phenyl)-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridine (example E.22) (0.392 g, 0.72 mmol) and commercially available 3-pyridineboronic acid (0.115 g, 0.93 mmol) according to the general procedure VI. Obtained as a white solid (0.120 g, 40%). MS (ISP) 417.3 [(M+H)+]; mp 100-104° C.

reactant | 2-(3-bromo-phenyl)-6-cyclopropyl-4-(4-trifluoromethyl-phenyl)-pyridine | 0.72 mmol, 0.392 g | BrC=1C=C(C=CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1CC1 | C21H15BrF3N
reactant | 3-pyridineboronic acid | 0.93 mmol, 0.115 g | N1=CC(=CC=C1)B(O)O | C5H6BNO2
product | 2-Cyclopropyl-6-(3-pyridin-3-yl-phenyl)-4-(4-trifluoromethyl-phenyl)-pyridine | C1(CC1)C1=NC(=CC(=C1)C1=CC=C(C=C1)C(F)(F)F)C1=CC(=CC=C1)C=1C=NC=CC1 | C26H19F3N2
